US08048878B2
Synthesis of 1,2,3-trifluoro-5-((E)-2-nitrovinyl)benzene
Ammonium acetate (7.3 g) was added to a solution of 3,4,5-trifluorobenzaldehyde (12.6 g) and nitromethane (17.1 mL) in acetic acid (50 mL), and the reaction solution was stirred at 100° C. for three hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane->heptane:ethyl acetate=9:1) to obtain 10.5 g of the title compound. The property values of the compound are as follows.

reactant | Ammonium acetate | 7.3 g | C(C)(=O)[O-].[NH4+]
reactant | 3,4,5-trifluorobenzaldehyde | 12.6 g | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | nitromethane | 17.1 mL | [N+](=O)([O-])C | CH3NO2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 1,2,3-trifluoro-5-((E)-2-nitrovinyl)benzene | 10.5 g | FC1=C(C(=CC(=C1)\C=C\[N+](=O)[O-])F)F | C8H4F3NO2
